US07348438B2
1-(5-Chloro-6-fluoro-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanol
4-Chloro-5-fluoro-benzene-1,2-diamine (5.20 g; 32.4 mmoles) and 3,3,3-trifluoro-2-hydroxy-propionic acid (7.00 g; 48.6 mmoles) were suspended in 6N HCl (9 mL; 54 mmoles) under a nitrogen atmosphere. The reaction was stirred vigorously and heated to 108° C. for 18 hrs, then cooled to room temperature. The reaction was diluted with water (100 mL) and with ethyl acetate (100 mL), then sodium bicarbonate (6.90 g; 81.00 mmoles) was added slowly and in portions to quench the reaction. The aqueous layer was separated and extracted with ethyl acetate (3×40 mL). The extracts were combined, washed with water (30 mL) and brine (30 mL), then dried over Na2SO4. The filtrate was concentrated in vacuo to yield a crude brown solid which was then purified by column chromatography (SiO2; 30% ethyl acetate/CH2Cl2) to yield the title compound as an off-white solid.

reactant | 4-Chloro-5-fluoro-benzene-1,2-diamine | 32.4 mmoles, 5.20 g | ClC=1C=C(C(=CC1F)N)N | C6H6ClFN2
reactant | 3,3,3-trifluoro-2-hydroxy-propionic acid | 48.6 mmoles, 7.00 g | FC(C(C(=O)O)O)(F)F | C3H3F3O3
reactant | HCl | 54 mmoles, 6N, 9 mL | Cl | ClH
reactant | sodium bicarbonate | 81.00 mmoles, 6.90 g | C([O-])(O)=O.[Na+]
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-Chloro-6-fluoro-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanol | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)O)C=C1F | C9H5ClF4N2O
